2186-04-17 08:25:00 Physician Resident Progress Note
Chief Complaint: 2 units pRBCs
   2 units FFP
   24 Hour Events:
 EKG - At [**2186-4-16**] 10:59 PM
   admit @22:30
 ENDOSCOPY - At [**2186-4-17**] 12:05 AM
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-4-16**] 10:55 PM
   Midazolam (Versed) - [**2186-4-17**] 12:05 AM
   Fentanyl - [**2186-4-17**] 12:05 AM
   Morphine Sulfate - [**2186-4-17**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-4-17**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 121 (102 - 127) bpm
   BP: 123/73(84) {117/72(84) - 135/83(96)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  1,157 mL
                                                                  1,115 mL
   PO:
           TF:
   IVF:
                                                                     31 mL
                                                                    946 mL
   Blood products:
                                                                  1,126 mL
                                                                    168 mL
   Total out:
                                                                      0 mL
                                                                    730 mL
   Urine:
   730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,157 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General: Somnolent this morning after morphine but oriented
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Bibasilar crackles.
   CV: Regular rate and rhythm, II/VI systolic murmur at RUSB
   Abdomen: Very distended with positive fluid wave, nontender,
   normoactive BS
   Ext: Warm, well perfused, 2+ pulses, no LE edema
   Neuro: CNs II-XII grossly intact, no asterixis
   Labs / Radiology
   156 K/uL
   8.9 g/dL
   134 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   26 mg/dL
   101 mEq/L
   133 mEq/L
   24.4 %
   14.1 K/uL
        [image002.jpg]
                             [**2186-4-17**]  02:14 AM
                             [**2186-4-17**]  07:31 AM
   WBC
   14.1
   Hct
   26.9
   24.4
   Plt
   156
   Cr
   0.6
   Glucose
   134
   Other labs: PT / PTT / INR:21.5/38.6/2.0, ALT / AST:29/85, Alk Phos / T
   Bili:122/17.0, Lactic Acid:2.0 mmol/L, LDH:301 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   41 yo woman with acute v. acute on chronic liver failure p/w
   significant hematemesis, s/p banding of esophageal varices.
   .
   # Hematemesis: Source appears to be esophageal varices based on EGD
   tonight, now s/p banding x 4 without further evidence of active bleed.
   Has received 2 units pRBC and 2 units FFP (INR 2.6).  Remains HD
   stable. Ddx includes gastric varices (visualization impaired by clotted
   blood), PUD (gastric or duodenal), M-W tear, malignancy.
   - Continue octreotide gtt x 3 days and pantoprazole gtt for now
   - D/c prednisone
   - Active T&S, q6h Hct, trend coags, transfuse for goal Hct 25 (will
   give 1 unit pRBCs now)
   - Goal INR < 2.0 (will give 1 unit FFP now)
   - Keep NPO for now, consider clears in AM if stable
   - Ceftriaxone for SBP ppx and possible role in clot stabilization
   - If re-bleeds, would need to consider TIPS (will alert IR)
   - Appreciate Liver recs
   .
   # Acute on chronic liver failure: Most consistent with EtOH etiology.
   Does have some synthetic function, significant ascites (reaccumulation
   despite 3L para on [**4-14**]), portal hypertension, and now evidence of
   esophageal varices.
   - Monitor LFTs, coags
   - D/c prednisone as above
   - Continue pentoxyfilline for now; confirm with Liver
   - F/u liver bx
   - Consider therapeutic paracentesis
   - Hold diuretics for now
   - NPO for now but low Na when resumes diets
   - Check bladder pressure
 may require repeat paracentesis if elevated
   .
   # Leukocytosis/fever: This is mostly likely from acute hepatitis,
   prednisone; [**2186-4-15**] urine cx now growing E. coli. C. diff negative.
   [**4-14**] paracentesis not c/w SBP
   - Cont ceftriaxone for SBP ppx and to cover UTI
   - F/u micro
   .
   # Hyponatremia: Likely due to liver failure with hypovolemia, improving
   - Cont to monitor on fluid restriction
   - F/u renal recs
   - [**Hospital1 **] electrolytes
   .
   # ETOH use: No evidence with withdrawal now.
   - Monitor for withdrawal symptoms
   - Resume MVI, thiamine, folate when able to take PO
   - Social work has been consulted
   # AMS: Likely secondary to sedation from morphine this AM. No evidence
   of encephalopathy, but if pt becomes confused or develops asterixis,
   would consider lactulose PO/PR.
   - Will monitor over course of day, adjust pain meds PRN
   # Tachycardia: Possibly related to blood loss/hypovolemia as well as
   component of pain.
   - Will monitor after transfusions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-4-16**] 10:58 PM
   18 Gauge - [**2186-4-16**] 11:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2186-04-17 08:37:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Blood Loss Anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Denies abd pain - though somnolent
   24 Hour Events:
 EKG - At [**2186-4-16**] 10:59 PM
   admit @22:30
 ENDOSCOPY - At [**2186-4-17**] 12:05 AM
   History obtained from [**Hospital 19**] Medical records, per ICU resident note
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-4-16**] 10:55 PM
   Midazolam (Versed) - [**2186-4-17**] 12:05 AM
   Fentanyl - [**2186-4-17**] 12:05 AM
   Morphine Sulfate - [**2186-4-17**] 04:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Gastrointestinal: Abdominal pain
   Psychiatric / Sleep: Daytime somnolence
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2186-4-17**] 08:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 121 (102 - 127) bpm
   BP: 123/73(84) {117/72(84) - 135/83(96)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  1,157 mL
                                                                  1,113 mL
   PO:
           TF:
   IVF:
                                                                     31 mL
                                                                    945 mL
   Blood products:
                                                                  1,126 mL
                                                                    168 mL
   Total out:
                                                                      0 mL
                                                                    730 mL
   Urine:
   730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,157 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, Tender: mild throughout, no rebound/guarding
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, Somnolent but answers
   question
   Labs / Radiology
   8.9 g/dL
   156 K/uL
   134 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   26 mg/dL
   101 mEq/L
   133 mEq/L
   24.4 %
   14.1 K/uL
        [image002.jpg]
                             [**2186-4-17**]  02:14 AM
                             [**2186-4-17**]  07:31 AM
   WBC
   14.1
   Hct
   26.9
   24.4
   Plt
   156
   Cr
   0.6
   Glucose
   134
   Other labs: PT / PTT / INR:21.5/38.6/2.0, ALT / AST:29/85, Alk Phos / T
   Bili:122/17.0, Lactic Acid:2.0 mmol/L, LDH:301 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   41 yr old  with new diagnosis of EtOH cirrhosis, hematemesis yesterday
   - EGD revealed bleeding esophageal varices, now s/p 4 bands.
   GI Bleed/Blood Loss Anemia: S/p banding.  Monitor frequent Hcts.  Still
   tachycardic - transfus 1 additional unit of pRBCs and 1 of FFP.
   Protonix gtt.  Restart clears later today if she remains stable.
   Abd Pain: Improved this AM.  mildly tender on exam.  Will probably need
   another paracentesis - but will defere for today due to concerns about
   her hemodynamics.
   Cirrhosis: Will need to restart lactulose and rifaxamin when restarting
   clears.  Monitor LFTs.  Cont CTX for SBP ppx - also treating UTI with
   the CTX
   Reaminder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-4-16**] 10:58 PM
   18 Gauge - [**2186-4-16**] 11:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2186-04-18 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2186-4-17**] 08:29 PM
   placed at ?4pm
   - During the day, large volume of melana, tachy to 130s. Transfused 3U
   PRBC (6 units total since [**4-16**]) by 4pm, 4u FFP, 2u cryo. Unclear if new
   bleeding or old from overnight (have to assume it new). Hepatology has
   no plans to re-scope or place [**Last Name (un) 1048**] if opens up. IR called to
   evaluate for urgent TIPS. HCT stabilized after transfusions so plan to
   manage conservatively for now.
   - GI recs: Lactulose PO/PR (start with PR enemas and progress to PO
   once mental status improves); advance diet as tolerated according to
   mental status; when stable, patient should undergo paracentesis
   (therapeutic) followed by albumin [**6-6**] g/L of fluid removed; continue
   PPI; continue ceftriaxone; Dobhoff tube if unable to tolerate PO diet;
   continue octreotide gtt
   - a line placed
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hepatic toxicit
   Last dose of Antibiotics:
   Ceftriaxone - [**2186-4-18**] 12:30 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-4-18**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 107 (89 - 138) bpm
   BP: 133/84(95) {108/64(73) - 133/87(95)} mmHg
   RR: 15 (13 - 35) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
    Bladder pressure: 18 (18 - 24) mmHg
   Total In:
                                                                  4,312 mL
                                                                    349 mL
   PO:
   TF:
   IVF:
                                                                  1,674 mL
                                                                    349 mL
   Blood products:
                                                                  2,638 mL
   Total out:
                                                                  2,210 mL
                                                                    720 mL
   Urine:
                                                                  2,210 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,102 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.54/36/64/27/6
   Physical Examination
   General: Somnolent this morning but oriented to city given choices, to
hospital
, to year, not to month (
[**Month (only) 2877**]
   HEENT: Sclera icteric, MM dry; multiple telangiectasias on face
   Neck: Supple, JVP not elevated
   Lungs: Bibasilar crackles
   CV: Tachycardic, regular rhythm, II/VI systolic murmur at RUSB
   Abdomen: Very distended with positive fluid wave, nontender,
   normoactive BS
   Ext: Warm, well perfused, 2+ pulses, no LE edema
   Labs / Radiology
   109 K/uL
   9.2 g/dL
   131 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   26 mg/dL
   109 mEq/L
   142 mEq/L
   25.9 %
   14.1 K/uL
        [image002.jpg]
                             [**2186-4-17**]  02:14 AM
                             [**2186-4-17**]  07:31 AM
                             [**2186-4-17**]  01:26 PM
                             [**2186-4-17**]  02:34 PM
                             [**2186-4-17**]  03:15 PM
                             [**2186-4-17**]  05:43 PM
                             [**2186-4-17**]  05:53 PM
                             [**2186-4-17**]  09:17 PM
                             [**2186-4-18**]  02:03 AM
                                   6:37am
   WBC
   14.1
   14.6
   14.1
   Hct
   26.9
   24.4
   22.3
   21.7
   25.4
   26.6
   26.2
   25.9
   25
   Plt
   156
   144
   109
   Cr
   0.6
   0.7
   0.7
   0.6
   TCO2
   31
   Glucose
   134
   133
   142
   131
   Other labs: PT / PTT / INR:19.9/33.1/1.8, ALT / AST:33/103, Alk Phos /
   T Bili:94/21.8, Differential-Neuts:84.0 %, Band:1.0 %, Lymph:9.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:81 mg/dL, Lactic Acid:1.5 mmol/L,
   LDH:320 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:1.9 mg/dL
   [**4-17**] KUB
 pending
   [**4-18**] CXR
 pending
   [**4-14**] liver biopsy path report
 pending
   [**4-15**] urine cx - >100K E coli, pansensitive
   [**4-14**] peritoneal fluid GS negative (final), aerobic cx negative (final),
   anaerobic cx NGTD (prelim)
   [**4-14**] stool cx and c diff negative
   [**4-12**] blood cx ngtd
   [**4-16**] EGD: Varices at the lower third of the esophagus (ligation); Blood
   in the whole stomach; unable to assess for gastric varices
   Assessment and Plan
   41 yo woman with acute v. acute on chronic liver failure p/w
   significant hematemesis, s/p banding of esophageal varices.
   .
   # Hematemesis/Melena: Source appears to be esophageal varices based on
   EGD, now s/p banding x 4 without further evidence of active bleed. Has
   received 6 units pRBC total since [**4-16**] (including 3 during morning of
   [**4-17**]), 6u FFP, 2u cryo.  Remains HD stable. Ddx includes gastric
   varices (visualization impaired by clotted blood), PUD (gastric or
   duodenal), M-W tear, malignancy.
   - Continue octreotide gtt x 3 days (day 1 = [**4-16**]) and pantoprazole gtt
   for now
   - Prednisone discontinued per liver team as may increase bleeding
   - Active T&S, q6h Hct, trend coags, transfuse for goal Hct 25
   (transfuse 1 unit now [**4-18**] am)
   - Transfuse FFP for goal INR < 2.0
   - Keep NPO for now; ADAT by mental status
   - Ceftriaxone for SBP ppx and possible role in clot stabilization (day
   1 = [**4-16**])
   - If re-bleeds, would need to consider TIPS (IR evaluated pt on [**4-17**])
   - Appreciate Liver recs
   .
   # Acute on chronic liver failure: Most consistent with EtOH etiology.
   Does have some synthetic dysfunction, significant ascites
   (reaccumulation despite 3L paracentesis on [**4-14**]), portal hypertension,
   and now evidence of esophageal varices.
   - Monitor LFTs qd, coags [**Hospital1 **]
   - Prednisone discontinued as above
   - Continue pentoxyfilline for now (day 1 = [**4-12**])
   - F/u liver bx (pending)
   - Therapeutic paracentesis when stable followed by albumin [**6-6**] g/L of
   fluid removed
   - Hold diuretics for now
   - Low sodium diet when tolerating POs
   - Monitor bladder pressure
 may require repeat paracentesis if
   elevated (18 on [**4-17**] at 11pm)
   .
   # Leukocytosis/fever: This is mostly likely from acute hepatitis,
   prednisone; [**2186-4-15**] urine cx growing E. coli. C. diff negative. [**4-14**]
   paracentesis not c/w SBP.
   - Cont ceftriaxone for SBP ppx and to cover UTI (day 1 = [**4-16**]) for 3
   day course for UTI (Foley inserted [**4-17**])
   - F/u micro
   .
   # Hyponatremia: Likely due to liver failure with hypovolemia, resolved
   - Cont to monitor on fluid restriction
   - Appreciate renal recs; team has now signed off.
   - Daily electrolytes
   .
   # ETOH use: No evidence for withdrawal now.
   - Monitor for withdrawal symptoms
   - Resume MVI, thiamine, folate when able to take PO
   - Social work has been consulted
   # AMS: Likely secondary to sedation from morphine. No evidence of
   encephalopathy at present.
   - Lactulose PO/PR.
   - Will monitor over course of day, adjust pain meds PRN
   # Tachycardia: Likely related to blood loss/hypovolemia as well as
   component of pain. Concern for occult infection though afebrile.
   - Will monitor
   # FEN: No IVFs, monitor/replete electrolytes, sips (when taking POs
   will use 1L fluid restriction and low sodium diet)
   # Lines: 20 Gauge - [**2186-4-16**] 10:58 PM, 18 Gauge - [**2186-4-16**] 11:22 PM
   # Prophylaxis: -DVT ppx with pneumoboots; -zofran/compazine prn nausea;
   -lidocaine patch for low back pain; PPI
   # Communication:  Comments: Patient. Husband [**Name (NI) 82**] is HCP
   ([**Telephone/Fax (1) 12715**]).
   # Code status: FULL, confirmed with patient
   # Disposition: ICU pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-4-16**] 10:58 PM
   18 Gauge - [**2186-4-16**] 11:22 PM
   Arterial Line - [**2186-4-17**] 08:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2186-04-18 10:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41  yo women with ETOH hepatitis admitted to OSH on [**4-11**].  Had
   paracentesis, Hct drop - dark red emesis and melena.  Got blood,
   octreotide, and transferred here.  EGD in MICU:  grade III varicies.
   Large blood in stomach.  Large melena yesterday.  Got 3U PRBCs, 6 total
   since [**4-16**].  Not plans to rescope.  IR seens for TIPS.  Hct as since
   stabilized.
   24 Hour Events:
 ARTERIAL LINE - START [**2186-4-17**] 08:29 PM
   placed at ?4pm
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hepatic toxicit
   Last dose of Antibiotics:
   Ceftriaxone - [**2186-4-18**] 12:30 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   octreotide drip
   lidocaine patch
   thiamine
   MVI
   sucralfate
   rifaxamin
   lactulose enema
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Integumentary (skin): Jaundice, No(t) Rash
   Pain location: c/o back pain
   Flowsheet Data as of  [**2186-4-18**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 108 (89 - 138) bpm
   BP: 120/76(87) {109/64(73) - 133/87(95)} mmHg
   RR: 14 (13 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Bladder pressure: 18 (18 - 24) mmHg
   Total In:
                                                                  4,312 mL
                                                                    444 mL
   PO:
   TF:
   IVF:
                                                                  1,674 mL
                                                                    444 mL
   Blood products:
                                                                  2,638 mL
   Total out:
                                                                  2,210 mL
                                                                    980 mL
   Urine:
                                                                  2,210 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,102 mL
                                                                   -536 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.54/36/64/27/6
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : basialr)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Oriented (to): to year and to
   hospital, coulding name hosptial, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.2 g/dL
   109 K/uL
   131 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   26 mg/dL
   109 mEq/L
   142 mEq/L
   25.0 %
   14.1 K/uL
        [image002.jpg]
                             [**2186-4-17**]  02:14 AM
                             [**2186-4-17**]  07:31 AM
                             [**2186-4-17**]  01:26 PM
                             [**2186-4-17**]  02:34 PM
                             [**2186-4-17**]  03:15 PM
                             [**2186-4-17**]  05:43 PM
                             [**2186-4-17**]  05:53 PM
                             [**2186-4-17**]  09:17 PM
                             [**2186-4-18**]  02:03 AM
                             [**2186-4-18**]  06:37 AM
   WBC
   14.1
   14.6
   14.1
   Hct
   26.9
   24.4
   22.3
   21.7
   25.4
   26.6
   26.2
   25.9
   25.0
   Plt
   156
   144
   109
   Cr
   0.6
   0.7
   0.7
   0.6
   TCO2
   31
   Glucose
   134
   133
   142
   131
   Other labs: PT / PTT / INR:20.4/34.0/1.9, ALT / AST:33/103, Alk Phos /
   T Bili:94/21.8, Differential-Neuts:84.0 %, Band:1.0 %, Lymph:9.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:81 mg/dL, Lactic Acid:1.5 mmol/L,
   LDH:320 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs:
   Microbiology: Urine cx: >100K E. coli
   peritoneal gram stain and aerobic cx neg.
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  Likely
   variceal bleed.  Can transfuse 1U now, and continue
   q4h hct checks.  Continue octreotide drop and protonix.  Will follow up
   with hepatology for plan for continued oozing
   Cirrhosis/ETOH hepatitis:  continue CTX for prophylaxis
    - pentoxyfilline on hold due to lack of POs.   Will to liver about
   placing a dobhoff.
   tachycardia:  due to blood loss, now better.
   low dose morphine for pain (0.5mg)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-4-16**] 10:58 PM
   18 Gauge - [**2186-4-16**] 11:22 PM
   Arterial Line - [**2186-4-17**] 08:29 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2186-04-19 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2186-4-18**] 07:05 PM
   placed at ?4pm
   - Continued with melena [**4-17**] overnight. 2 U pRBC [**4-17**] at 4pm with Hct
   21.7->26.6, now stable 26.1 at 10am. Repeat Hct at 2:30pm - 26.7.
   - Liver recs: hold off on dobhoff for now unless unable to tolerate PO;
   cont CTX, PPI, caratate, lactulose, rifaximin, octreotide; if rebleed
   plan for TIPS (will not rescope); when stable LVP with albumin
   - F/u with IR for TIPS if pt rebleeds
   - Access: PICC placed this AM
   - Nutrition recs: replete phos prior to TFs, consider ppft, once
   placement confirmed- start Nutren 2.0 @ 10mL/hr to increase 10 mL q 4
   hr to goal of 40mL/hr ([**2095**] kcals/77 gr protein)
   - SW following
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hepatic toxicit
   Last dose of Antibiotics:
   Ceftriaxone - [**2186-4-19**] 12:30 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2186-4-18**] 03:56 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt complains of shortness of breath today
   Flowsheet Data as of  [**2186-4-19**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 37.2
C (99
   Tcurrent: 35.8
C (96.4
   HR: 97 (97 - 112) bpm
   BP: 108/68(78) {103/48(63) - 128/92(98)} mmHg
   RR: 11 (11 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                    910 mL
                                                                    251 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    810 mL
                                                                    251 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    445 mL
   Urine:
                                                                  1,780 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -870 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General/neuro: Somnolent this morning but AOX3, months of year
   backwards accurately but slowly and had to be prompted to continue once
   HEENT: Sclera icteric, MM dry; multiple telangiectasias on face
   Neck: Supple, JVP not elevated
   Lungs: clear to auscultation anteriorly and at left base, diminished
   sounds at right base
   CV: Tachycardic, regular rhythm, II/VI systolic murmur at RUSB
   Abdomen: Very distended with positive fluid wave, normoactive BS,
   tender to palpation in right flank
   GU: Foley in place draining icteric urine
   Ext: Warm, well perfused, 2+ pulses, no LE edema
   Labs / Radiology
   122 K/uL
   9.3 g/dL
   111 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   22 mg/dL
   111 mEq/L
   146 mEq/L
   27.1 %
   17.0 K/uL
        [image002.jpg]
                             [**2186-4-17**]  03:15 PM
                             [**2186-4-17**]  05:43 PM
                             [**2186-4-17**]  05:53 PM
                             [**2186-4-17**]  09:17 PM
                             [**2186-4-18**]  02:03 AM
                             [**2186-4-18**]  06:37 AM
                             [**2186-4-18**]  10:34 AM
                             [**2186-4-18**]  02:34 PM
                             [**2186-4-18**]  08:35 PM
                             [**2186-4-19**]  04:14 AM
   WBC
   14.1
   17.0
   Hct
   25.4
   26.6
   26.2
   25.9
   25.0
   26.1
   26.7
   26.3
   27.1
   Plt
   109
   122
   Cr
   0.7
   0.6
   0.6
   TCO2
   31
   Glucose
   142
   131
   111
   Other labs: PT / PTT / INR:20.8/34.4/1.9, ALT / AST:47/126, Alk Phos /
   T Bili:103/15.8, Differential-Neuts:84.0 %, Band:1.0 %, Lymph:9.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:147 mg/dL, Lactic Acid:1.5 mmol/L,
   LDH:320 IU/L, Ca++:8.8 mg/dL, Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   [**4-15**] Urine with >100K e.coli, pan-[**Last Name (un) 46**].
   [**4-14**] ascites fluid
 NGTD (anaerobic is still prelim)
   C Diff neg, blood cx negative (FINAL)
   [**4-19**] CXR pending (PICC placed)
   Assessment and Plan
   41 yo woman with acute v. acute on chronic liver failure p/w
   significant hematemesis, s/p banding of esophageal varices.
   .
   # Hematemesis/Melena: Source appears to be esophageal varices based on
   EGD, now s/p banding x 4 without further evidence of active bleed. Has
   received 6 units pRBC total since [**4-16**] (including 3 during morning of
   [**4-17**], none [**2097-4-17**]), 6u FFP, 2u cryo.  Remains HD stable. Ddx includes
   gastric varices (visualization impaired by clotted blood), PUD (gastric
   or duodenal), M-W tear, malignancy.
   - Continue octreotide gtt (day 1 = [**4-16**]) and pantoprazole gtt per liver
   team
   - Prednisone discontinued per liver team as may increase bleeding
   - Active T&S, q8h Hct, trend coags, transfuse for goal Hct 25
   - Transfuse FFP for goal INR < 2.0
   - ADAT by mental status (now taking sips)
   - Ceftriaxone for SBP ppx and possible role in clot stabilization (day
   1 = [**4-16**])
   - If re-bleeds, would need to consider TIPS (IR evaluated pt on [**4-17**])
   - Appreciate Liver recs
   .
   # Acute on chronic liver failure: Most consistent with EtOH etiology.
   Does have some synthetic dysfunction, significant ascites
   (reaccumulation despite 3L paracentesis on [**4-14**]), portal hypertension,
   and now evidence of esophageal varices.
   - Monitor LFTs qd, coags [**Hospital1 **]
   - [**4-19**]: MELD 24, discriminant function 56
   - Prednisone discontinued due to risk of bleeding
   - Continue pentoxyfilline (day 1 = [**4-12**]), rifaximin, lactulose
   - F/u liver bx (pending)
   - Therapeutic paracentesis when stable followed by albumin [**6-6**] g/L of
   fluid removed
   - Hold diuretics for now
   - Low sodium diet when tolerating POs
   - Monitor bladder pressure
 may require repeat paracentesis if
   elevated (18 on [**4-17**] at 11pm; 16 on [**4-18**] at 6pm)
   .
   # Leukocytosis/fever: This is mostly likely from acute hepatitis,
   prednisone; [**2186-4-15**] urine cx growing E. coli. C. diff negative. [**4-14**]
   paracentesis not c/w SBP. Leukocytosis continues [**4-19**] despite stopping
   prednisone and appropriate treatment for UTI.
   - Cont ceftriaxone for SBP ppx and to cover UTI (day 1 = [**4-16**]) for 3
   day course for UTI (Foley inserted [**4-17**])
   - F/u micro
   - CIS
   .
   # Altered sodium balance: Initially hyponatremic, then resolved, Na 146
   on [**4-19**]. Free water deficit calculated at 2L.
   - Pt thirsty, will give PO water as tolerated by mental status and
   otherwise start 1L NS 100cc/hr
   - Cont to monitor on fluid restriction
   - Appreciate renal recs; team has now signed off
   - Daily electrolytes
   .
   # ETOH use: No evidence for withdrawal now.
   - Monitor for withdrawal symptoms
   - Resume MVI, thiamine, folate when able to take PO
   - Social work input appreciated
   .
   # AMS: Likely hepatic encephalopathy in setting of hepatic dysfunction.
   - Lactulose PO/PR, rifaximin
   - Will monitor over course of day, adjust pain meds PRN
   .
   # Tachycardia: Likely related to blood loss/hypovolemia as well as
   component of pain. Concern for occult infection though afebrile.
   - Will monitor
   # FEN: IVFs, monitor/replete electrolytes, advance diet as tolerate by
   mental status, now on sips (when taking POs will use 1L fluid
   restriction and low sodium diet)
   # Lines: 18 Gauge - [**2186-4-16**] 11:22 PM, PICC [**4-19**]
   # Prophylaxis: -DVT ppx with pneumoboots; -zofran/compazine prn nausea;
   -lidocaine patch for low back pain; PPI
   # Communication:  Comments: Patient. Husband [**Name (NI) 82**] is HCP
   ([**Telephone/Fax (1) 12715**]).
   # Code status: FULL, confirmed with patient
   # Disposition: ICU pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-4-18**] 09:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2186-04-19 10:40:00 Physician Attending Progress Note
Chief Complaint: UGIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 yo women with ETOH hepatitis and variceal bleeding. Has been stable
   with stable Hct.  No transfusions for 48 hours.  Today more oriented.
   Doing better
   24 Hour Events:
 ARTERIAL LINE - STOP [**2186-4-18**] 07:05 PM
   placed at ?4pm
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hepatic toxicit
   Last dose of Antibiotics:
   Ceftriaxone - [**2186-4-19**] 12:30 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2186-4-18**] 03:56 PM
   Other medications:
   trental
   thiamin
   lido patch
   folate
   sucralfate
   rifaxamin
   lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Emesis, No(t) Diarrhea
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Heme / Lymph: Anemia, Coagulopathy
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2186-4-19**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 96 (94 - 112) bpm
   BP: 107/65(75) {103/48(63) - 128/92(98)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                    910 mL
                                                                    706 mL
   PO:
                                                                    100 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    810 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    665 mL
   Urine:
                                                                  1,780 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -870 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: right base)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed, no asteriskis
   Labs / Radiology
   9.3 g/dL
   122 K/uL
   111 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   22 mg/dL
   111 mEq/L
   146 mEq/L
   27.1 %
   17.0 K/uL
        [image002.jpg]
                             [**2186-4-17**]  03:15 PM
                             [**2186-4-17**]  05:43 PM
                             [**2186-4-17**]  05:53 PM
                             [**2186-4-17**]  09:17 PM
                             [**2186-4-18**]  02:03 AM
                             [**2186-4-18**]  06:37 AM
                             [**2186-4-18**]  10:34 AM
                             [**2186-4-18**]  02:34 PM
                             [**2186-4-18**]  08:35 PM
                             [**2186-4-19**]  04:14 AM
   WBC
   14.1
   17.0
   Hct
   25.4
   26.6
   26.2
   25.9
   25.0
   26.1
   26.7
   26.3
   27.1
   Plt
   109
   122
   Cr
   0.7
   0.6
   0.6
   TCO2
   31
   Glucose
   142
   131
   111
   Other labs: PT / PTT / INR:20.8/34.4/1.9, ALT / AST:47/126, Alk Phos /
   T Bili:103/15.8, Differential-Neuts:84.0 %, Band:1.0 %, Lymph:9.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:147 mg/dL, Lactic Acid:1.5 mmol/L,
   LDH:320 IU/L, Ca++:8.8 mg/dL, Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Microbiology: [**4-15**] E. coli
   C. diff negative
   Assessment and Plan
 BACK PAIN
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  Hct has been
   stable.  Doing well.  Continue octreotid and PPI
   Encephalopathy:  Much improved today.  Can start PO diet.
   ETOH hepatitis:  continue trental.
   Leukocytosis:  Check C. diff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-4-19**] 07:00 AM
   PICC Line - [**2186-4-19**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes